US07579469B2
To a suspension of trimethylsulfoxonium iodide (1.36 g) in anhydrous dimethylsulfoxide (7.7 mL) was added sodium hydride (60% dispersion in mineral oil, 246 mg). The resulting solution was stirred at room temperature for 30 minutes and was then added dropwise to a solution of 1,1,1-trifluoro-4-methyl-4-(5-methylsulfanyl-2,3-dihydrobenzofuran-7-yl)pentan-2-one (1.63 g) in anhydrous dimethylsulfoxide (6.5 mL). After 2 hours, water (100 mL) was added and the resulting mixture was extracted with three 100 mL portions of diethyl ether. The combined organic phases were washed twice with water, washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 7-[1,1-dimethyl-2-(2-trifluoromethyloxiranyl)ethyl]-5-methylsulfanyl-2,3-dihydrobenzofuran as a clear oil (1.64 g) which was used without further purification.

reactant | trimethylsulfoxonium iodide | 1.36 g | [I-].C[S+](=O)(C)C
reactant | sodium hydride | 246 mg | [H-].[Na+]
reactant | 1,1,1-trifluoro-4-methyl-4-(5-methylsulfanyl-2,3-dihydrobenzofuran-7-yl)pentan-2-one | 1.63 g | FC(C(CC(C)(C1=CC(=CC=2CCOC21)SC)C)=O)(F)F | C15H17F3O2S
reactant | water | 100 mL | O | H2O
solvent | dimethylsulfoxide | 7.7 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 6.5 mL | CS(=O)C | C2H6OS
product | 7-[1,1-dimethyl-2-(2-trifluoromethyloxiranyl)ethyl]-5-methylsulfanyl-2,3-dihydrobenzofuran | 1.64 g | CC(CC1(OC1)C(F)(F)F)(C)C1=CC(=CC=2CCOC21)SC | C16H19F3O2S
